US08058273B2
5-dimethoxymethyl-pyridine-2-carbaldehyde (355 mg, 1.97 mmol) was dissolved in THF (10 ml) and the resulting solution was added to a stirring mixture of tert-butyl diethylphosphonoacetate (547 mg, 2.169 mmol) and NaH (102 mg, 2.56 mmol, 60% oil dispersion) in THF (5 ml). After 15 minutes the reaction was quenched by addition of water and the resulting slurry was extracted with Et2O. The organic phase was dried over Na2SO4 and evaporated under vacuo. The crude product was purified by silica gel chromatography (petroleum ether/EtOAc 95:5) to give 491 mg of 3-(5-dimethoxymethyl-pyridin-2-yl)-acrylic acid tert-butyl ester.

reactant | 5-dimethoxymethyl-pyridine-2-carbaldehyde | 1.97 mmol, 355 mg | COC(C=1C=CC(=NC1)C=O)OC | C9H11NO3
reactant | tert-butyl diethylphosphonoacetate | 2.169 mmol, 547 mg | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | NaH | 2.56 mmol, 102 mg | [H-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(5-dimethoxymethyl-pyridin-2-yl)-acrylic acid tert-butyl ester | 491 mg, Yield=89% | C(C)(C)(C)OC(C=CC1=NC=C(C=C1)C(OC)OC)=O | C15H21NO4
